US07737166B2
6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile (I-77) (200 mg, 0.68 mmol) was dissolved in toluene (4 ml), then 2-tributylstannylpyridine (299 mg, 0.81 mmol) and 2,6-di-tert-butylcresol (2 mg) and bis(triphenylphosphine)palladium(II) dichloride (24 mg, 0.03 mmol) were added, followed by heating under reflux for 17 hours under nitrogen atmosphere. The reaction liquid was cooled, the insoluble matter was separated by filtration through Celite, the solvent was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography, followed by removing tin-derived side products with n-hexane and by elution with a mixed solvent of n-hexane/ethyl acetate (5:1-3:1, v/v) to obtain 2-cyclopropyl-7-fluoro-5-methyl-6-(2-pyridyl)-1,3-benzoxazole-4-carbonitrile (184 mg, 0.63 mmol, 92%) as a pale yellow transparent oily substance, A part of this (183 mg, 0.62 mmol) was dissolved in dimethyl sulfoxide (3.7 ml), triethylamine (219 μl, 1.56 mmol) and (3S)-3-(dimethylamino)pyrrolidine (103 μl, 0.81 mmol) were added, followed by stirring at 90° C. under nitrogen atmosphere for 15 hours. After cooling to room temperature, ethyl acetate was added, followed by fractionation with water. The organic layer was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated away, the resulting residue was recrystallized and purified with a mixed solvent of diisopropyl ether/n-hexane/ethyl acetate to obtain the entitled compound (108 mg, 45%) as a pale brown solid.

reactant | 6-Bromo-2-cyclopropyl-7-fluoro-5-methyl-1,3-benzoxazole-4-carbonitrile | 0.68 mmol, 200 mg | BrC=1C(=C2C(N=C(O2)C2CC2)=C(C1C)C#N)F | C12H8BrFN2O
reactant | 2-tributylstannylpyridine | 0.81 mmol, 299 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.03 mmol, 24 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | 2,6-di-tert-butylcresol | 2 mg | C(C)(C)(C)C1(CC=CC(=C1O)C(C)(C)C)C | C15H26O
product | 2-cyclopropyl-7-fluoro-5-methyl-6-(2-pyridyl)-1,3-benzoxazole-4-carbonitrile | 0.63 mmol, 184 mg, 92% | C1(CC1)C=1OC=2C(N1)=C(C(=C(C2F)C2=NC=CC=C2)C)C#N | C17H12FN3O
